US07151105B2
Step 3: 2-Methyl-6-(2,2,2-trifluoro-ethyl)-phenol
2-Methoxy-1-methyl-3-(2,2,2-trifluoro-ethyl)-benzene(6.0 g) was dissolved in dichloromethane (100 ml) and BBr3 (100 ml) added. The reaction was allowed to stir at room temperature for 12 hrs, after which time it was quenched slowly with cHCl. The mixture was then made basic with 2N NaOH solution and the organics discarded. The aqueous was acidified with 1N HCl and the product extracted with ethyl acetate to afford the title compound as a brown oil (4.43 g). LCMS: APCI−VE=189

reactant | 2-Methoxy-1-methyl-3-(2,2,2-trifluoro-ethyl)-benzene | 6.0 g | COC1=C(C=CC=C1CC(F)(F)F)C | C10H11F3O
reactant | BBr3 | 100 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-Methyl-6-(2,2,2-trifluoro-ethyl)-phenol | 4.43 g | CC1=C(C(=CC=C1)CC(F)(F)F)O | C9H9F3O
